US05254655
To a suspension of NMP (20 ml), acetone (20 ml) and potassium carbonate (8.85 g) was added 5-fluoro-2-nitro phenol (5.0 g, 30 mmol) in one portion. After 15 minutes, the suspension began to turn yellow. After stirring 30 minutes under nitrogen, 4-bromobutene (4.25 ml) was added and the suspension was refluxed for 18 hours. The suspension was poured into water and extracted with 3×200 ml of diethyl ether. The aqueous layer was acidified with 2N HCl and extracted with ether. The ether layers were combined, washed with 2N HCl and water and dried over anhydrous magnesium sulfate. Filtration and in vacuo concentration yielded 6.0 g of 2-(3-butenyloxy-4-fluoronitrobenzene, as an oil, which was used in the next step without further purification.

reactant | NMP | 20 ml | CN1CCCC1=O | C5H9NO
reactant | potassium carbonate | 8.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-fluoro-2-nitro phenol | 30 mmol, 5.0 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | 4-bromobutene | 4.25 ml | BrCCC=C | C4H7Br
solvent | water | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-butenyloxy-4-fluoronitrobenzene | C(=CCC)OC=1C=C(C=CC1F)[N+](=O)[O-] | C10H10FNO3
